US07507736B2
1-{4-[6-Bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazin-1-yl}-ethanone
The title compound was synthesized in analogy to example 1, from 6-bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carboxylic acid hydrochloride (example 1, intermediate a) and 1-acetylpiperazine to afford the title compound as a light-yellow foam (52%).

reactant | 6-bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carboxylic acid hydrochloride | Cl.BrC1=C(C=C2C=C(NC2=C1)C(=O)O)OC1CCN(CC1)C(C)C
reactant | 1-acetylpiperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
product | 1-{4-[6-Bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazin-1-yl}-ethanone | 52% | BrC1=C(C=C2C=C(NC2=C1)C(=O)N1CCN(CC1)C(C)=O)OC1CCN(CC1)C(C)C | C23H31BrN4O3
